Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aleve / advil liquid cold gel cap / aspirin
 
Attending: ___
 
Chief Complaint:
Asthma with Acute Exacerbation
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ year old Male with chronic stable asthma who presents with 4 
days of progressive dyspnea. The patient reports recently he 
developed a viral URI which resulted in persistent coughing. He 
also notes recent smoke exposure at work (he works security for 
___), and they used chemical smoke at a recent concert 
at the ___, which he notes exacerbated his asthma. He has 
been using his home nebulizer more frequently without relief. He 
went for an episodic visit on ___ with ___ Urgent Care, who 
noted a peak flow of 190. Of note on the last 2 visits with ___ 
his peak flows have been 220 and 260 respectively, so he has a 
poor baseline peak flow. 

The patient reports he is dyspneic enough to barely be able to 
walk across the street. He does note he got his flu vaccine this 
year.

In the ___ his initial vitals were 98.8, 56, 121/78, 18, 100% 
He was given many duonebs, started on prednisone 60mg and 
started on azithromycin.
 
Past Medical History:
Chronic Stable asthma
GERD
OSA
Hyperlipidemia
 
Social History:
___
Family History:
Mother: healthy
Father: died of a brain tumor
 
Physical Exam:
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: + Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 Remainder of 10-point ROS negative except as above
 

PHYSICAL EXAM:

VSS: 97.9, 119/77, 88, 18, 96%
 GEN: NAD, speaking in complete sentences
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions , -stridor
 PUL: B/L EE Wheezes
 COR: RRR, S1/S2, - MRG
 ABD: NT/ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 01:55PM BLOOD WBC-8.0 RBC-5.29 Hgb-15.0 Hct-47.4 MCV-90 
MCH-28.4 MCHC-31.6* RDW-14.5 RDWSD-47.6* Plt ___
___ 01:55PM BLOOD Glucose-111* UreaN-8 Creat-0.9 Na-141 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 01:55PM BLOOD Calcium-9.6 Phos-4.0 Mg-2.1
___ 06:20PM URINE Color-Straw Appear-Clear Sp ___
___ 06:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:20PM URINE UCG-NEGATIVE
___ 10:00PM OTHER BODY FLUID Flu APCR-NEGATIVE Flu 
BPCR-NEGATIVE

___ 6:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
CHEST (PA & LAT) Study Date of ___ 10:21 ___ 
IMPRESSION:
Bibasilar atelectasis without focal consolidation. 
 
EKG: NSR@74, QTc 432, Early repolarization pattern

___ 06:32AM BLOOD WBC-8.5 RBC-5.01 Hgb-14.3 Hct-44.7 MCV-89 
MCH-28.5 MCHC-32.0 RDW-14.6 RDWSD-47.8* Plt ___
___ 06:32AM BLOOD Glucose-100 UreaN-8 Creat-0.8 Na-142 
K-4.3 Cl-104 HCO3-26 AnGap-12
___ 06:32AM BLOOD ALT-22 AST-15 LD(LDH)-185 AlkPhos-111 
TotBili-0.3
___ 06:32AM BLOOD Albumin-3.9 Calcium-9.2 Phos-3.9 Mg-2.___ y.o man with h.o OSA, HL, GERD, asthma who presents with
asthma exacerbation. 

#Asthma with acute exacerbation. Likely triggered by URI and 
smoke exposure. No abx as no signs of PNA on CXR. Pt was 
continued on prn albuterol and montelukast. He was given advair 
in place of home budesonide and treated with prednisone. Patient 
had worsening dyspnea on exertion with exacerbated heart rate in 
the 200s. EKG showed Sinus rhythm a DDimer was ordered and was 
negative ruling out PE. He was given instructions for the 
following a Prednisone taper upon discharge. Patient was also 
advised to request a pulmonary referral from PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
2. fluticasone 220 mcg/actuation inhalation BID 
3. Albuterol Inhaler 1 PUFF IH Q6H:PRN asthma 
4. Montelukast 10 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. budesonide 0.5 mg/2 mL inhalation BID 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY 
RX *prednisone 10 mg see instructions tablet(s) by mouth daily 
Disp #*47 Tablet Refills:*0 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN asthma 
RX *albuterol sulfate 90 mcg 2 puffs inhaled every 6 hours Disp 
#*1 Inhaler Refills:*0 
3.  budesonide 0.5 mg/2 mL inhalation BID  
4.  fluticasone 220 mcg/actuation inhalation BID  
5.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 3 ml 
inhaled via nebulizaiton every six (6) hours Disp #*10 Ampule 
Refills:*0 
6.  Montelukast 10 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of shortness of breath and 
found to have an asthma exacerbation. Your symptoms improved 
with nebulizer therapy and steroids.
 
Followup Instructions:
___